US08912188B2
The solution of methyl 3-((1-(tert-butoxycarbonyl)piperidin-4-yl)(methyl)amino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate (210 mg, crude) in hydrogen chloride(g)/MeOH (50 mL) was stirred overnight at room temperature and then concentrated in vacuo. The residue was dissolved in water (50 mL) and adjusted to pH 8 with sodium bicarbonate, extracted with dichloromethane (5×30 mL), dried over anhydrous magnesium sulfate and concentrated in vacuo. The product was precipitated by the addition ether (20 mL) to afford methyl 2-(4-fluorophenyl)-3-(methyl(piperidin-4-yl)amino)quinoxaline-6-carboxylate as a yellow solid (100 mg).

reactant | methyl 3-((1-(tert-butoxycarbonyl)piperidin-4-yl)(methyl)amino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 210 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F)C | C27H31FN4O4
reactant | MeOH | 50 mL | CO | CH4O
solvent | hydrogen chloride | Cl | ClH
product | methyl 2-(4-fluorophenyl)-3-(methyl(piperidin-4-yl)amino)quinoxaline-6-carboxylate | 100 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N(C1CCNCC1)C)C(=O)OC | C22H23FN4O2
